US06087304
2.1 g of naphthalene-2,6-dicarboxylic acid monomethyl ester and 25 ml of ethanolamine are heated at 150° C. for 3 h. The excess ethanolamine is distilled off in vacuo, and the residue is dissolved in water and the mixture is extracted with ethyl acetate. After acidifying the aqueous phase, the product which is deposited is filtered off with suction and recrystallized from ethanol. 1.2 g of 6-(2-hydroxyethyl-aminocarbonyl)-2-naphthoic acid are obtained.

reactant | naphthalene-2,6-dicarboxylic acid monomethyl ester | 2.1 g | COC(=O)C1=CC2=CC=C(C=C2C=C1)C(=O)O | C13H10O4
reactant | ethanolamine | 25 ml | C(O)CN | C2H7NO
product | 6-(2-hydroxyethyl-aminocarbonyl)-2-naphthoic acid | 1.2 g | OCCNC(=O)C=1C=C2C=CC(=CC2=CC1)C(=O)O | C14H13NO4
